US05304644
(a) 2-chloro-1-(2-nitrophenoxy)benzene
Sodium hydride (1.00 g) was added in portions to a solution of 2-chlorophenol (5.00 g) in N,N-dimethylformamide (100 mL) under nitrogen. To the resulting solution was added 2-fluoro-1-nitrobenzene (5.00 g). The mixture was heated at 65° C. overnight, and then was evaporated under vacuum. The residue was partitioned between chloroform and 1 N NaOH, and the layers were separated. The aqueous layer was extracted once more with chloroform, and the combined chloroform layers were washed with water and brine, dried over magnesium sulfate, and evaporated under vacuum to a yellow oil. The oil was crystallized from ethyl ether/hexane at -78° C. to yield the title compound as a light yellow solid. Mp: 48°-49° C.

reactant | Sodium hydride | 1.00 g | [H-].[Na+]
reactant | 2-chlorophenol | 5.00 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | 2-fluoro-1-nitrobenzene | 5.00 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-chloro-1-(2-nitrophenoxy)benzene | ClC1=C(C=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO3
